US07612075B2
D. 5-Methyl-3-oxo-2-propyl-piperazine-1-carboxylic acid tert-butyl ester.
A solution of 2-[2-benzyloxycarbonylamino-propylamino]-pentanoic acid methyl ester (6.6 g, 20.5 mmol) in MeOH (100 mL) is added 4 drops of AcOH and 0.65 g of 10% Pd/C. The atmosphere above the reaction is replaced by hydrogen. The reaction is stirred overnight. The solution is then filtered to give a clear solution. The solution is concentrated and the residue is dissolved in EtOH. The solution is heated to reflux for 2 h. After this time the ethanolic solution is concentrated. The residue is dissolved in CH2Cl2 (60 mL) and BOC2O (3.3 g, 15.1 mmol) followed by DMAP (0.16 g, 1.3 mmol) are added. After 16 h, the reaction is diluted with CH2Cl2 (150 mL) and washed with 1N KHSO4, H2O and sat. NaCl. The organic layer is dried over MgSO4, filtered and concentrated to give the title compound (3.1 g, 12.1 mmol) as a white solid. 1H NMR (CDCl3, 300 MHz) δ7.78 (s, 1H), 4.36 (m, 1H), 4.02 (m, 1H), 3.48 (m, 2H), 2.49 (m, 1H), 1.77 (m, 1H), 1.55 (m, 1H), 1.39 (s, 9H), 1.02 (d, 3H), 0.8 (m, 3H). MS (ion spray) m/z 257, (M+H).

reactant | 2-[2-benzyloxycarbonylamino-propylamino]-pentanoic acid methyl ester | 20.5 mmol, 6.6 g | COC(C(CCC)NCC(C)NC(=O)OCC1=CC=CC=C1)=O | C17H26N2O4
reactant | hydrogen | [H][H] | H2
reactant | BOC2O | 15.1 mmol, 3.3 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 100 mL | CO | CH4O
catalyst | AcOH | 4 drops | CC(=O)O | C2H4O2
catalyst | DMAP | 1.3 mmol, 0.16 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 0.65 g | [Pd] | Pd
product | 5-Methyl-3-oxo-2-propyl-piperazine-1-carboxylic acid tert-butyl ester | 12.1 mmol, 3.1 g | C(C)(C)(C)OC(=O)N1C(C(NC(C1)C)=O)CCC | C13H24N2O3
